US07371869B2
[(S)-2-(2-Cyano-phenyl)-1-fluorocarbonyl-ethyl]-carbamic acid tert-butyl ester (2.4 g, 8.2 mmol) and 2-amino-thiazole-4-carboxylic acid methyl ester (1.24 g, 7.8 mmol) were dissolved in p-dioxane (40 mL). The mixture was heated in a sealed tube under microwave irradiation at 120° C. for 15 minutes The solution was concentrated, and the residue was purified by chromatography over silica gel eluted with 1:1 ethyl acetate/hexanes to give 2-[(S)-2-tert-butoxycarbonylamino-3-(2-cyano-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester as a white solid (3.2 g, 95%).

reactant | [(S)-2-(2-Cyano-phenyl)-1-fluorocarbonyl-ethyl]-carbamic acid tert-butyl ester | 8.2 mmol, 2.4 g | C(C)(C)(C)OC(N[C@@H](CC1=C(C=CC=C1)C#N)C(=O)F)=O | C15H17FN2O3
reactant | 2-amino-thiazole-4-carboxylic acid methyl ester | 7.8 mmol, 1.24 g | COC(=O)C=1N=C(SC1)N | C5H6N2O2S
solvent | p-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 2-[(S)-2-tert-butoxycarbonylamino-3-(2-cyano-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 3.2 g, 95% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=C(C=CC=C1)C#N)NC(=O)OC(C)(C)C)=O | C20H22N4O5S
